US08426411B2
To (1R,3R)-3-(tert-butoxycarbonylamino)cyclopentanecarboxylic acid (2.25 g, 9.81 mmol, Acros) in DCM (98 mL) was added 2-hydrazinyl-5-tosyl-5H-pyrrolo[2,3-b]pyrazine (2.98 g, 9.81 mmol), HATU (3.73 g, 9.81 mmol) and TEA (5.5 mL, 39 mmol). The reaction mixture was stirred at ambient temperature for about 4 h then diluted with DCM (300 mL). The reaction mixture was washed with water (2×80 mL), saturated aqueous NaHCO3 (80 mL), dried over anhydrous MgSO4, filtered, and concd under reduced pressure. The residue was purified using silica gel chromatography (220 g) eluting with a gradient of 50-100% EtOAc in DCM give tert-butyl (1R,3R)-3-(2-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)hydrazinecarbonyl)cyclopentylcarbamate (5.03 g, 100%) as a brown solid: LC/MS (Table 1, Method b) Rt=2.18 min; MS m/z: 513 (M−H)−

reactant | (1R,3R)-3-(tert-butoxycarbonylamino)cyclopentanecarboxylic acid | 9.81 mmol, 2.25 g | C(C)(C)(C)OC(=O)N[C@H]1C[C@@H](CC1)C(=O)O | C11H19NO4
reactant | 2-hydrazinyl-5-tosyl-5H-pyrrolo[2,3-b]pyrazine | 9.81 mmol, 2.98 g | N(N)C=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C13H13N5O2S
reactant | HATU | 9.81 mmol, 3.73 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 98 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (1R,3R)-3-(2-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)hydrazinecarbonyl)cyclopentylcarbamate | 5.03 g, 100% | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC=2C1=NC=C(N2)NNC(=O)[C@H]2C[C@@H](CC2)NC(OC(C)(C)C)=O | C24H30N6O5S
